US06472410B1
Step E: 4-(N-(Benzyloxycarbonyl)-N-(prop-1-yl)amino)piperidine hydrochloride salt
To a solution of 2.4 mmol of HCl in 2 mL of methanol (prepared by the addition of 0.17 mL of acetyl chloride at 0° C. and stirring for 10 min) was added 90 mg of 4-(N-(benzyloxycarbonyl)-N-(prop-1-yl)amino)-1-t-butoxycarbonylpiperidine. The mixture was stirred at rt for 16 h at which time the reaction was complete by TLC (20% ethyl acetate in hexanes) and was evaporated to dryness in vacuo to afford 75 mg of the title compound as the hydrochloride salt.

reactant | HCl | 2.4 mmol | Cl | ClH
reactant | acetyl chloride | 0.17 mL | C(C)(=O)Cl | C2H3ClO
reactant | 4-(N-(benzyloxycarbonyl)-N-(prop-1-yl)amino)-1-t-butoxycarbonylpiperidine | 90 mg | C(C1=CC=CC=C1)OC(=O)N(CCC)C1CCN(CC1)C(=O)OC(C)(C)C | C21H32N2O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 2 mL | CO | CH4O
product | 4-(N-(Benzyloxycarbonyl)-N-(prop-1-yl)amino)piperidine hydrochloride salt | 75 mg | Cl.C(C1=CC=CC=C1)OC(=O)N(CCC)C1CCNCC1 | InChI=1S/C16H24N2O2.ClH/c1-2-12-18(15-8-10-17-11-9-15)16(19)20-13-14-6-4-3-5-7-14;/h3-7,15,17H,2,8-13H2,1H3;1H
